US08003800B2
To a solution of 4-hydroxy-3-isobutyl-but-3-en-2-one (28 g, 197 mmol) in chloroform (350 mL) a soution of oxalylchloride (44.3 g, 349 mmol) in chloroform (50 mL) is added slowly during 5 min. The resulting dark brown mixture is stirred at rt for 2 h before it is cooled to 0° C. and treated with ice (100 g) followed by 1 N aq. NaOH (100 mL). When the quite violent gas evolution ceases the phases are separated (the still acidic aq. phase is discarded). The organic phase is washed with 1N aq. NaOH (3×75 mL) and 1 N aq. NaH2PO4 (75 mL), dried (MgSO4), filtered and evaporated to give crude 4-chloro-3-isobutyl-but-3-en-2-one (31.6 g) as a dark brown oil; LC-MS: tR=0.97 min.

reactant | 4-hydroxy-3-isobutyl-but-3-en-2-one | 197 mmol, 28 g | OC=C(C(C)=O)CC(C)C | C8H14O2
reactant | oxalylchloride | 349 mmol, 44.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NaOH | 1 N, 100 mL | [OH-].[Na+]
solvent | chloroform | 350 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-3-isobutyl-but-3-en-2-one | 31.6 g | ClC=C(C(C)=O)CC(C)C | C8H13ClO
